US03992385
A solution of 4.1 g. of 6-methyl-8-cyanomethyl-ergoline in 110 ml. of trifluoroacetic acid was stirred and cooled to 5° C. in a ice-waterbath. To the cold solution was added 2.5 g. of sodium borohydride, in 5 equal portions over 1 hour. The reaction mixture was added to 100 g. of ice and the pH of the aqueous reaction mixture was adjusted to 11 by the addition of ammonium hydroxide. The aqueous alkaline reaction mixture was extracted with chloroform. The combined organic extracts were washed with water, dried, and the solvent was evaporated therefrom to provide 2,3-dihydro-6-methyl-8-cyanomethylergoline, M.P. 100°-104° C.

reactant | 6-methyl-8-cyanomethyl-ergoline | CN1CC(C[C@@H]2C=3C=CC=C4NC=C(C[C@@H]12)C34)CC#N | C17H19N3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium borohydride | [BH4-].[Na+]
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 2,3-dihydro-6-methyl-8-cyanomethylergoline | CN1CC(C[C@@H]2C=3C=CC=C4NCC(C[C@@H]12)C34)CC#N | C17H21N3
